### PR TITLE
[Merged by Bors] - feat(RingTheory): `IsIntegrallyClosed R[X]`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IntegralClosure/IsIntegral/AlmostIntegral.lean [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+  cutsat
+
+lemma IsIntegral.isAlmostIntegral_of_isLocalization
+    {s : S} (H : IsIntegral R s) (M : Submonoid R) (hM : M ≤ R⁰) [IsLocalization M S] :
+    IsAlmostIntegral R s := by
+  obtain ⟨s, t, rfl⟩ := IsLocalization.exists_mk'_eq M s
+  exact H.isAlmostIntegral_of_exists_smul_mem_range ⟨t, hM t.2, by simp⟩
+
+@[stacks 00GX "Part 2"]
+lemma IsIntegral.isAlmostIntegral [IsFractionRing R S]
```
Comment (jcommelin) [inline Mathlib/RingTheory/IntegralClosure/IsIntegral/AlmostIntegral.lean:78]: Please add the corollary `integralClosure \le completeIntegralClosure`.

File: Mathlib/RingTheory/IntegralClosure/IsIntegral/AlmostIntegral.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+  exact .of_mem_of_fg _ this _ (Algebra.self_mem_adjoin_singleton R s)
+
+@[stacks 00GX "Part 3"]
+lemma IsAlmostIntegral.isIntegral [IsNoetherianRing R] [IsDomain S] [FaithfulSMul R S]
+    {s : S} (H : IsAlmostIntegral R s) : IsIntegral R s := by
+  have : IsDomain R := (FaithfulSMul.algebraMap_injective R S).isDomain
+  exact H.isIntegral_of_nonZeroDivisors_le_comap fun _ ↦ by simp
+
+lemma isAlmostIntegral_iff_isIntegral [IsNoetherianRing R] [IsDomain R] [IsFractionRing R S]
+    {s : S} : IsAlmostIntegral R s ↔ IsIntegral R s :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/IntegralClosure/IsIntegral/AlmostIntegral.lean:121]: And the equality in this case.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Review by Vierkantor — COMMENTED** [review]
Looks like this is causing the batch to fail. Please merge the `master` branch into this PR and reply with `bors r+` when it builds again.

bors r-

bors d+

**Comment by erdOne** [comment]
bors merge
